US04587342
A. 2,4-Diamino-5-[3,4-dimethoxy-5-(1-methyl-2-propynyloxy)benzyl]pyrimidine
The title compound was prepared in 62% yield from 2,4-diamino-5-(3-hydroxy-4,5-dimethoxybenzyl)pyrimidine and 3-chloro-1-butyne by the procedure of Example 1A. Crystallization from methanol gave white solid; mp 153°-155°. Anal. Calcd for C17H20N4O3 : C, 62.18; H, 6.14; N, 17.06. Found: C, 61.93; H, 6.22; N, 16.98.

reactant | 2,4-diamino-5-(3-hydroxy-4,5-dimethoxybenzyl)pyrimidine | NC1=NC=C(C(=N1)N)CC1=CC(=C(C(=C1)OC)OC)O | C13H16N4O3
reactant | 3-chloro-1-butyne | ClC(C#C)C | C4H5Cl
product | 2,4-Diamino-5-[3,4-dimethoxy-5-(1-methyl-2-propynyloxy)benzyl]pyrimidine | 62% yield | NC1=NC=C(C(=N1)N)CC1=CC(=C(C(=C1)OC(C#C)C)OC)OC | C17H20N4O3
